US04847306
(c) 1-Acetoxymethylcyclobutanecarboxylic Acid (6c)
Sodium hydroxide pellets (1.48 g, 37 mmol) was added to a stirred mixture of ethyl 1-hydroxymethylcyclobutanecarboxylate (4.14 g, 26.1 mmol), water (4 ml) and 95% ethanol (20 ml). The resulting mixture was stirred at room temperature overnight, then concentrated on a roatry evaporator. The residue was treated with toluene (100 ml). Evaporation of this mixture gave a flaky resiude which was further dried under high vacuum. The final residue was treated with pyridine (25 ml) and acetic anhydride (15 ml). The resulting mixture was stirred at room temperature for 18 hour, then heated on a steam bath for 20 minutes. It was cooled to room temperature, added crushed ice, then slowly treated with concentrated HCl (12N, 30 ml) with vigorous stirring. It was extracted with a mixture of diethyl ether (120 ml) and methylene chloride (40 ml). The extract was washed with water (4×100 ml), dried, filtered and evaporated to yield the desired product as a yellow oil: NMR (CDCl3) δ=1.82-2.7 (9H, m containing a singlet at 2.07δ), 4.40 (2H, s), 11.46 (H, bs).

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | ethyl 1-hydroxymethylcyclobutanecarboxylate | 26.1 mmol, 4.14 g | OCC1(CCC1)C(=O)OCC | C8H14O3
reactant | water | 4 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-Acetoxymethylcyclobutanecarboxylic Acid | C(C)(=O)OCC1(CCC1)C(=O)O | C8H12O4
